### PR TITLE
[Merged by Bors] - feat(Algebra/MonoidAlgebra/Defs): add simple lemmas about `single`

### PR DESCRIPTION
**Pull request by Paul-Lez**
This PR adds a couple of lemmas about `single` (for `MonoidAlgebra`, `Finsupp`, `DFinsupp` and `Pi`). Note that these aren't simp lemmas since simp can already prove them.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
All three lemmas you added can already be proven by simp. I don't know if that makes adding them a bad idea, but they should certainly not by marked `simp`.

**Review by YaelDillies — APPROVED** [review]
They definitely should exist, but not simp.

maintainer delegate

File: Mathlib/Algebra/MonoidAlgebra/Defs.lean [hunk 1]
```diff
@@ -119,6 +119,9 @@ theorem single_apply {a a' : G} {b : k} [Decidable (a = a')] :
 @[simp]
 theorem single_eq_zero {a : G} {b : k} : single a b = 0 ↔ b = 0 := Finsupp.single_eq_zero
 
+@[simp]
+theorem single_ne_zero {a : G} {b : k} : single a b ≠ 0 ↔ b ≠ 0 := single_eq_zero.not
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/Defs.lean:123]:
```suggestion
theorem single_ne_zero {a : G} {b : k} : single a b ≠ 0 ↔ b ≠ 0 := Finsupp.single_ne_zero
```
since this makes it a little clearer that the APIs are in sync

**Comment by eric-wieser** [comment]
I'm ok with these lemmas existing, since I think we often duplicate `ne` lemmas for `eq` lemmas.

Please also:
* Add the `Pi.single_ne_zero` version
* Remove `Mathlib/` from the PR title
* Adjust the description based on the new information that actually none of these should be `simp` after all!

File: Mathlib/Algebra/Group/Pi/Basic.lean [hunk 2]
```diff
@@ -167,6 +167,15 @@ theorem mulSingle_eq_of_ne' {i i' : I} (h : i ≠ i') (x : f i) : mulSingle i x
 theorem mulSingle_one (i : I) : mulSingle i (1 : f i) = 1 :=
   Function.update_eq_self _ _
 
+@[to_additive (attr := simp)]
+theorem mulSingle_eq_one_iff (i : I) (x : f i) : mulSingle i x = 1 ↔ x = 1 := by
+  refine ⟨fun h => ?_, fun h => h.symm ▸ mulSingle_one i⟩
+  rw [←mulSingle_eq_same i x, h, one_apply]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Pi/Basic.lean:173]:
```suggestion
  rw [← mulSingle_eq_same i x, h, one_apply]
```

File: Mathlib/Algebra/Group/Pi/Basic.lean [hunk 3]
```diff
@@ -167,6 +167,15 @@ theorem mulSingle_eq_of_ne' {i i' : I} (h : i ≠ i') (x : f i) : mulSingle i x
 theorem mulSingle_one (i : I) : mulSingle i (1 : f i) = 1 :=
   Function.update_eq_self _ _
 
+@[to_additive (attr := simp)]
+theorem mulSingle_eq_one_iff (i : I) (x : f i) : mulSingle i x = 1 ↔ x = 1 := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Pi/Basic.lean:171]:
```suggestion
theorem mulSingle_eq_one_iff {i : I} {x : f i} : mulSingle i x = 1 ↔ x = 1 := by
```
is usually the convention for `Iff`s

File: Mathlib/Algebra/MonoidAlgebra/Defs.lean [hunk 4]
```diff
@@ -119,6 +119,8 @@ theorem single_apply {a a' : G} {b : k} [Decidable (a = a')] :
 @[simp]
 theorem single_eq_zero {a : G} {b : k} : single a b = 0 ↔ b = 0 := Finsupp.single_eq_zero
 
+theorem single_ne_zero {a : G} {b : k} : single a b ≠ 0 ↔ b ≠ 0 := Finsupp.single_ne_zero
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/Defs.lean:122]: Do we already have the `AddMonoidAlgebra` version below?

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

File: Mathlib/Algebra/MonoidAlgebra/Defs.lean (hunk 4 above)
Comment (Paul-Lez) [reply Mathlib/Algebra/MonoidAlgebra/Defs.lean:122]: Seems like it was also missing!
